US05935966
A solution of 5-hydroxymethyl-4-ethyl-2-methylthiopyrimidine (0.50 g, 2.72 mmol), t-butyldimethylsilylchloride (0.49 g, 3.26 mmol), and imidazole (0.20 g, 2.99 mmol) in DMF (5 mL) was stirred overnight and concentrated to give of 5-t-butyldimethylsiloxymethyl-4-ethyl-2-methylthiopyrimidine in a 94% yield (0.76 g); GC/MS calcd for C14H26N2OSSi (M+) 299, found 299. The title compound was then prepared by (a) oxidation of 5-t-butyldimethylsiloxymethyl-4-ethyl-2-methylthiopyrimidine (0.30 g, 1.0 mmol) with mCPBA (0.35 g, 2.0 mmol) as described for Example 67, (b) reaction with methyl hydrazine (0.16 mL, 3.0 mmol) followed by citraconic anhydride (0.11 g, 1.0 mmol) also described in Example 67; (c) reaction of 2-[N-(1'-aminocitraconamido)]-5-t-butyldimethylsiloxymethyl-4-ethylpyrimidine; (0.08 g, 0.21 mmol) and concentrated HCl (0.5 mL) in EtOH (20 mL) for 1 hour, concentration and chromatography (Hexanes/EtOAc, 2:1) to provide the title compound in 76% yield (0.043 g) from 2-[N-(1'-aminocitraconamido)]-5-t-butyldimethylsiloxymethyl-4-ethylpyrimidine; m.p. 108-110° C.

reactant | 5-hydroxymethyl-4-ethyl-2-methylthiopyrimidine | 2.72 mmol, 0.50 g | OCC=1C(=NC(=NC1)SC)CC | C8H12N2OS
reactant | t-butyldimethylsilylchloride | 3.26 mmol, 0.49 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.99 mmol, 0.20 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-t-butyldimethylsiloxymethyl-4-ethyl-2-methylthiopyrimidine | 94% yield | O([Si](C)(C)C(C)(C)C)CC=1C(=NC(=NC1)SC)CC | C14H26N2OSSi
